US04581452
A mixture of α-trifluoromethylacrylic acid (700 mg; 5.0 mmoles) and 1,3-dimethylurea (441 mg; 5.0 mmoles) in dimethylformamide (DMF) (3 ml) was heated at 90° C. with stirring for 28 hours. DMF was evaporated under reduced pressure, and the residue was purified by a column chromatography on silicagel (chloroform) to give 861 mg (yield: 82%) of 1,3-dimethyl-5-trifluoromethyl-5,6-dihydrouracil (OF-1).

reactant | α-trifluoromethylacrylic acid | 5.0 mmoles, 700 mg | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | 1,3-dimethylurea | 5.0 mmoles, 441 mg | CNC(=O)NC | C3H8N2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1,3-dimethyl-5-trifluoromethyl-5,6-dihydrouracil | 861 mg, yield: 82% | CN1C(=O)N(C(=O)C(C1)C(F)(F)F)C | C7H9F3N2O2
